US07060827B2
In a manner analogous to the preparation of N2,N4-bis(3-hydroxyphenyl)-5-fluoro-2,4-pyrimidinediamine, 3-aminobenzonitrile (177 mg, 1.5 mmol) and 2,4-dichloro-5-fluoropyrimidine (50 mg, 0.3 mmol) gave N2,N4-bis(3-cyanophenyl)-5-fluoro-2,4-pyrimidinediamine (75 mg, 76%). 1H NMR (acetone-d6): δ 7.33 (dt, J=1.8, 7.8 Hz, 1 H), 7.46–7.52 (m, 2 H), 7.59 (t, J=7.8 Hz, 1 H), 7.90 (ddd, J=0.9, 2.1 and 8.4 Hz, 1 H), 8.09 (ddd, J=1.2, 2.4 and 8.4 Hz, 1 H), 8.17 (d, J=3.3 Hz, 1 H), 8.31 (m, 1 H), 8.35 (t, J=2.1 Hz, 1 H), 8.98 (br, 1 H, NH), 9.02 (br, 1 H, NH); 19F NMR (282 MHz, acetone-d6): δ −165.80; LCMS: 24.64 min.; purity: 98.02%; MS (m/e): 331.01 (MH+).

reactant | N2,N4-bis(3-hydroxyphenyl)-5-fluoro-2,4-pyrimidinediamine | OC=1C=C(C=CC1)NC1=NC=C(C(=N1)NC1=CC(=CC=C1)O)F | C16H13FN4O2
reactant | 3-aminobenzonitrile | 1.5 mmol, 177 mg | NC=1C=C(C#N)C=CC1 | C7H6N2
reactant | 2,4-dichloro-5-fluoropyrimidine | 0.3 mmol, 50 mg | ClC1=NC=C(C(=N1)Cl)F | C4HCl2FN2
product | N2,N4-bis(3-cyanophenyl)-5-fluoro-2,4-pyrimidinediamine | 75 mg, 76% | C(#N)C=1C=C(C=CC1)NC1=NC=C(C(=N1)NC1=CC(=CC=C1)C#N)F | C18H11FN6
